US08049012B2
9-(Naphthalen-2-yloxy)-3-aza-spiro[5.5]undecane
Was prepared according to method A from 2-naphthol and 9-hydroxy-3-aza-spiro[5.5]undecane-3-carboxylic acid tert-butyl ester. Mp. 132.2-133.8° C.

reactant | 2-naphthol | C1=C(C=CC2=CC=CC=C12)O | C10H8O
reactant | 9-hydroxy-3-aza-spiro[5.5]undecane-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC2(CC1)CCC(CC2)O | C15H27NO3
product | 9-(Naphthalen-2-yloxy)-3-aza-spiro[5.5]undecane | C1=C(C=CC2=CC=CC=C12)OC1CCC2(CCNCC2)CC1 | C20H25NO
